US07767675B2
Step 3. tert-butyl 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoate
A mixture of tert-butyl 2-[4-(2-aminopyrimidin-5-yl)-2-fluorophenoxy]propanoate (0.33 g, 1.0 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.24 g, 1.0 mmol) in isopropanol was heated at 100° C. overnight. After cooling to RT, the mixture was purified by RP-HPLC (pH 2.0) to afford the desired product (0.22 g, 42%). LCMS: (M+H)=525.2.

reactant | tert-butyl 2-[4-(2-aminopyrimidin-5-yl)-2-fluorophenoxy]propanoate | 1.0 mmol, 0.33 g | NC1=NC=C(C=N1)C1=CC(=C(OC(C(=O)OC(C)(C)C)C)C=C1)F | C17H20FN3O3
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 1.0 mmol, 0.24 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | isopropanol | C(C)(C)O | C3H8O
product | tert-butyl 2-{2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenoxy}propanoate | 0.22 g, 42% | FC1=C(OC(C(=O)OC(C)(C)C)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C31H29FN4O3
